US05728686
Diethyl [4-(7-benzyl-3-methylxanthin-1-yl)butyl]phosphonate
20.4 g (0.08 mol) of 7-benzyl-3-methylxanthine were suspended in 200 ml of dimethylformamide (DMF), treated with 22 g (0.96 mol) of diethyl 4-chlorobutanephosphonate and 13.8 g (0.1 mol) of activated potassium carbonate and heated at 70° C. for 4 hours and filtered, the filtrate was concentrated under reduced pressure and the oily residue which remained was taken up in ethyl acetate, filtered again and crystallized from diisopropyl ether.

reactant | 7-benzyl-3-methylxanthine | 0.08 mol, 20.4 g | C(C1=CC=CC=C1)N1C=NC=2N(C(NC(C12)=O)=O)C | C13H12N4O2
reactant | diethyl 4-chlorobutanephosphonate | 0.96 mol, 22 g | ClCCCCP(OCC)(=O)OCC | C8H18ClO3P
reactant | potassium carbonate | 0.1 mol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | Diethyl [4-(7-benzyl-3-methylxanthin-1-yl)butyl]phosphonate | C(C1=CC=CC=C1)N1C=NC=2N(C(N(C(C12)=O)CCCCP(OCC)(OCC)=O)=O)C | C21H29N4O5P
